US08703922B2
Synthesis of 5,9,13,17-tetramethyloctadec-4-en-1-ol
Under a nitrogen atmosphere, 9.6 g (0.25 mol) of lithium aluminum hydride was added little by little at 0° C. to a solution of 150 g (0.425 mol) of methyl 5,9,13,17-tetramethyloctadec-4-enoate in dry tetrahydrofuran (850 mL). After being stirred at 50° C. for 2 hours, the reaction mixture was cooled on ice, followed by careful addition of water until the resulting gray suspension turned white. Sodium sulfate was added to the solution at room temperature for drying. After filtration, the filtrate was concentrated to obtain 133.8 g of the title compound (97% yield) as a colorless transparent liquid. The results of NMR analysis of the resulting compound are as shown below.

reactant | lithium aluminum hydride | 0.25 mol, 9.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl 5,9,13,17-tetramethyloctadec-4-enoate | 0.425 mol, 150 g | CC(=CCCC(=O)OC)CCCC(CCCC(CCCC(C)C)C)C | C23H44O2
reactant | water | O | H2O
reactant | Sodium sulfate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 850 mL | O1CCCC1 | C4H8O
product | 5,9,13,17-tetramethyloctadec-4-en-1-ol | 133.8 g, 97% yield | CC(=CCCCO)CCCC(CCCC(CCCC(C)C)C)C | C22H44O
